US05010101
24.7 g (0.1 mol) of 8-s-butyl-2-chloromethyl-1,4dioxaspiro [4,5] decane and 45.2 g (0.4 mol) of cis-3,5-dimethylpiperidine are stirred at 140° C. for 16 hours and cooled, 200 ml of ethyl acetate are added, the mixture is washed three times with 200 ml of water each time, dried over sodium sulphate and concentrated in vacuo and the residue is purified by chromatography (silica gel; mobile phase: ethyl acetate). 24.3 g (75% of theory) of 8-s-butyl-2-(3,5-dimethylpiperidin-1-ylmethyl) -1,4-dioxaspiro[4,5] decane are obtained as an oil of refractive index nd20 1.4762.

reactant | 8-s-butyl-2-chloromethyl-1,4dioxaspiro [4,5] decane | 0.1 mol, 24.7 g | C(C)(CC)C1CCC2(OCC(O2)CCl)CC1 | C13H23ClO2
reactant | cis-3,5-dimethylpiperidine | 0.4 mol, 45.2 g | C[C@@H]1CNC[C@@H](C1)C | C7H15N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 8-s-butyl-2-(3,5-dimethylpiperidin-1-ylmethyl) -1,4-dioxaspiro[4,5] decane | 24.3 g, 75% | C(C)(CC)C1CCC2(OCC(O2)CN2CC(CC(C2)C)C)CC1 | C20H37NO2
